US07846975B2
<4-1> Preparation of 2,2,2-trifluoroethyl 3-bromopropionate
2,2,2-Trifluoroethanol (15 ml, 0.15 mol) and triethylamine (4.5 ml, 32.12 mmol) were added to 30 ml of dichloromethane, and cooled to 0° C. After 10 min, 2.94 ml of 3-bromopropionyl chloride (29.2 mmol) was added dropwise thereto. The mixture was warmed to room temperature and stirred for 5 hrs. After the reaction was terminated by addition of water, the mixture was extracted with ethyl acetate, and the solvent was evaporated under a reduced pressure. The solid impurities were removed by filtration to obtain the title compound as a liquid (3.53 g).

reactant | 2,2,2-Trifluoroethanol | 0.15 mol, 15 ml | FC(CO)(F)F | C2H3F3O
reactant | triethylamine | 32.12 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromopropionyl chloride | 29.2 mmol, 2.94 ml | BrCCC(=O)Cl | C3H4BrClO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2,2,2-trifluoroethyl 3-bromopropionate | 3.53 g | BrCCC(=O)OCC(F)(F)F | C5H6BrF3O2
